US04863929
3-(9,10-didehydro-12-iodo-6-methyl-8α-ergolinyl)1,1-diethylurea.
With iodine and 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea:

reactant | iodine | II | I2
reactant | 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea | BrC=1C=C2N(C=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)CCC)[Si](C)(C)C(C)(C)C | C28H45BrN4OSi
product | 3-(9,10-didehydro-12-iodo-6-methyl-8α-ergolinyl)1,1-diethylurea | IC1=CC=C2NC=C3C[C@H]4N(C[C@H](C=C4C1=C32)NC(N(CC)CC)=O)C | C20H25IN4O
